US04985332
To a mechanically stirred slurry of 10 g of lithium aluminum hydride and 100 mL of tetrahydrofuran was added dropwise with cooling in an ice bath a solution of 32.9 g (0.139 mol) of methyl 4-tetrahydropyranyloxybenzoate at a rate such that the temperature did not exceed 30° C. After stirring 18 hr at room temperature, the solution was treated cautiously with 100 mL of water. The mixture was filtered, and the filtrate was stirred with 200 mL of aqueous sodium hydroxide for 2 hr. The organic layer was separated and evaporated with a rotary evaporator. The residue was dissolved in 200 mL of ether and washed three times with 5% aqueous sodium bicarbonate and dried over sodium sulfate. Evaporation gave 20.58 g of 4-tetrahydropyranyloxybenzyl alcohol as a liquid. 1H NMR (360 MHz, THF-d8): 1.45-2.0 (m's, 6H, CH2), 3.5 (m, 1H, OCH2), 3.8 (m, 1H, OCH2 ), 4.25 (t, J=6, 1H, OH), 4.45 (d, J=6, 2H, ArCH2OH), 5.35 (t, J=3, 1H, OCHO), 6.95 (d, J=8, 2H, ArH), 7.19 (d, J=8, 2H, ArH).

reactant | lithium aluminum hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | methyl 4-tetrahydropyranyloxybenzoate | 0.139 mol, 32.9 g | O1C(CCCC1)OC1=CC=C(C(=O)OC)C=C1 | C13H16O4
solvent | water | 100 mL | O | H2O
product | 4-tetrahydropyranyloxybenzyl alcohol | 20.58 g | O1C(CCCC1)OC1=CC=C(CO)C=C1 | C12H16O3
